US05324711
Preparation of methyl 6-hydroxy-α-methyl-1H-benzotriazole-1-acetate
A solution of methyl 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetate (31 g, 0.1 mole) in dimethoxyethane and methanol is shaken with 10% palladium on carbon catalyst (8 g, 50% water wet) under 24-33 psig of hydrogen in a Parr apparatus until approximately 0.1 mole of H2 is absorbed (21/2 hours). The reaction mixture is filtered and the filtrate is concentrated in vacuo to give the title compound as an off-white solid, 21.7 g, mp 132.5°-134.5° C., identified by NMR and elemental analyses.

reactant | methyl 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetate | 0.1 mole, 31 g | C(C1=CC=CC=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)OC)C)C1 | C17H17N3O3
reactant | hydrogen | [H][H] | H2
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 8 g | [Pd] | Pd
product | methyl 6-hydroxy-α-methyl-1H-benzotriazole-1-acetate | OC=1C=CC2=C(N(N=N2)C(C(=O)OC)C)C1 | C10H11N3O3
